US07947686B2
Step 1. Preparation of methyl 2,4-difluoro benzoate
To 100 mL of MeOH, 2,4-difluorobenzoyl chloride (10 mL, 79.3 mmol) was added and the mixture stirred at room temperature for 2 hours. The solvent was then evaporated affording the title compound as pale yellow oil (quantitative).

reactant | 2,4-difluorobenzoyl chloride | 79.3 mmol, 10 mL | FC1=C(C(=O)Cl)C=CC(=C1)F | C7H3ClF2O
reactant | MeOH | 100 mL | CO | CH4O
product | methyl 2,4-difluoro benzoate | COC(=O)C1=C(C=C(C=C1)F)F | C8H6F2O2
